US07323431B2
2,2-Di-n-butyl-3-methoxy-propanol was prepared from 2,2-di-n-butyl-1,3-propandiol and methyl iodide through the same procedure as described above.

reactant | 2,2-di-n-butyl-1,3-propandiol | C(CCC)C(CO)(CO)CCCC | C11H24O2
reactant | methyl iodide | CI | CH3I
product | 2,2-Di-n-butyl-3-methoxy-propanol | C(CCC)C(CO)(COC)CCCC | C12H26O2
